US04370326
A mixture of conc.hydrochloric acid (2.44 g) and methanol (10 ml) was added to a mixture of 7-[2-(2-formamido-4-thiazolyl)glyoxyloylamino]-3-cephem-4-carboxylic acid (2.44 g) in methanol (40 ml) under ice-cooling, stirred at 20° to 22° C. for 5 hours and filtered. The filtrate was concentrated under reduced pressure, and water (100 ml) was added to the residue adjusted to pH 6.5 with sodium bicarbonate with stirring and filtered. The filtrate was washed with ethyl acetate, and adjusted to pH 3.5 with 10% hydrochloric acid. The resultant precipitates were collected by filtration, washed with water and dried over phosphorus pentoxide under reduced pressure to give 7-[2-(2-amino-4-thiazolyl)glyoxyloylamino]-3-cephem-4-carboxylic acid (0.492 g). The filtrate and washings were subjected to column chromatography on macroporous, non-ionic adsorption resin "Diaion HP-20" (Trademark, manufactured by Mitsubishi Chemical Industries Ltd.), washed with water and eluted with 15% isopropyl alcohol. The isopropyl alcohol was distilled off under reduced pressure and the remaining solution was lyophilized to give the same object compound (1.561 g). Total yield 2.053 g.

reactant | hydrochloric acid | 2.44 g | Cl | ClH
reactant | 7-[2-(2-formamido-4-thiazolyl)glyoxyloylamino]-3-cephem-4-carboxylic acid | 2.44 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=O | C13H10N4O6S2
solvent | methanol | 40 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 7-[2-(2-amino-4-thiazolyl)glyoxyloylamino]-3-cephem-4-carboxylic acid | 0.492 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=O | C12H10N4O5S2
